US07405305B2
c) Dimethyl[2-(4-nitrobenzofur-7-yl)vinyl]amine
Add 7-methyl-4-nitrobenzofuran (3.5 g, 19.7 mmol) to tert-butoxybis(dimethylamino)methane (10.3 g, 59.1 mmol), and reflux the mixture under nitrogen for 40 minutes. Concentrate under reduced pressure, dissolve in xylenes (50 mL), concentrate under reduced pressure, and dry under vacuum to obtain 4.9 g (100%) of the title compound as a deep red-brown solid. HRMS (M+H)=233.0928.

reactant | 7-methyl-4-nitrobenzofuran | 19.7 mmol, 3.5 g | CC1=CC=C(C=2C=COC21)[N+](=O)[O-] | C9H7NO3
reactant | tert-butoxybis(dimethylamino)methane | 59.1 mmol, 10.3 g | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | Dimethyl[2-(4-nitrobenzofur-7-yl)vinyl]amine | 4.9 g, 100% | CN(C=CC1=CC=C(C=2C=COC21)[N+](=O)[O-])C | C12H12N2O3
